US07750161B2
1-[2-(4-Benzyl-4-hydroxy-piperidin-1-yl)-ethyl]-3-(2-benzyl-pyridin-4-yl)-urea
A mixture of 1-[2-(4-benzyl-4-hydroxy-piperidin-1-yl)-ethyl]-3-(2-chloro-pyridin-4-yl)-urea (98 mg, 0.3 mmol), B-benzyl-9-BBN (0.5 M in THF, 4 mL, 2 mmol), triphenylphosphine (29 mg, 0.11 mmol), tetrakis(triphenylphosphine)palladium(0) (11 mg, 0.01 mmol), 2 M aq. K2CO3 (0.5 mL) and dimethoxyethane (1 mL) is degassed and heated under argon at 90° C. for 7 days. The mixture is evaporated and the residue purified by preparative HPLC to provide the title compound.

reactant | 1-[2-(4-benzyl-4-hydroxy-piperidin-1-yl)-ethyl]-3-(2-chloro-pyridin-4-yl)-urea | 0.3 mmol, 98 mg | C(C1=CC=CC=C1)C1(CCN(CC1)CCNC(=O)NC1=CC(=NC=C1)Cl)O | C20H25ClN4O2
reactant | B-benzyl-9-BBN | 2 mmol, 0.5 M, 4 mL | B1(C2CCCC1CCC2)CC3=CC=CC=C3 | C15H21B
reactant | triphenylphosphine | 0.11 mmol, 29 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 2 M, 0.5 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 1 mL | C(OC)COC | C4H10O2
product | 1-[2-(4-Benzyl-4-hydroxy-piperidin-1-yl)-ethyl]-3-(2-benzyl-pyridin-4-yl)-urea | C(C1=CC=CC=C1)C1(CCN(CC1)CCNC(=O)NC1=CC(=NC=C1)CC1=CC=CC=C1)O | C27H32N4O2
